US04556739
2'-(N-3-Carbethoxypropylamino)-4',5'-dimethoxyacetophenone
Ethyl-4-bromobutyrate (190.7 g, 978 mM) was added with stirring to 2'-amino-4',5'-dimethoxyacetophenone (31.8 g, 163 mM) in triethylamine (33.9 mM) and the reaction mixture was heated at 110° C. for one hour. After cooling to room temperature 100 mL of 2% NaHCO3 was added and the reaction mixture was stirred for sixteen hours. A yellow solid formed which was dissolved in CHCl3 (250 mL). The aqueous phase was extracted with CHCl3 (4×200 mL), the organic extracts were combined and dried over MgSO4, filtered, and the solvent removed in vacuo to give a semisolid residue. The residue was chromatographed on SilicAR CC-7 and the appropriate fractions were crystallized upon standing from ether to afford the title compound in 62% yield, ,mp 74°-76° C.

reactant | Ethyl-4-bromobutyrate | 978 mM, 190.7 g | C(C)OC(CCCBr)=O | C6H11BrO2
reactant | 2'-amino-4',5'-dimethoxyacetophenone | 163 mM, 31.8 g | NC1=C(C=C(C(=C1)OC)OC)C(C)=O | C10H13NO3
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | triethylamine | 33.9 mM | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 2'-(N-3-Carbethoxypropylamino)-4',5'-dimethoxyacetophenone | 62% yield | C(=O)(OCC)CCCNC1=C(C=C(C(=C1)OC)OC)C(C)=O | C16H23NO5
